* pfc averaged current-loop AC sweep (cross-check of analytical design)
VIN inj 0 DC 0 AC 1
* PI compensator: Kp + Ki/s  (RC realization: E + integrator via B-source and C)
* error = -v(inj) (loop broken at reference summing, unity feedback)
BPI piout 0 V= -(0.004391561011230851*v(inj) + 11.716247755807142*v(integ))
BINT iint 0 I= -v(inj)
CINT integ 0 1 ic=0
RINT integ iint 1u
* delay ~ 1.5 Tsw via 2nd-order Pade on B-source is messy; approximate with RC chain matched at 5 kHz
* plant: (VHALF)/(sL+R) → current
BPL pl 0 V= v(piout)*425
LPL pl ipl 0.0001
RPL ipl 0 0.015
* loop output = plant current sensed across RPL/RL → v(ipl)... use current through RPL: v(ipl)=i*RL; scale to current:
BOUT out 0 V= v(ipl)/0.015
.ac dec 40 10 50k
.control
set filetype=ascii
run
wrdata pfc-acloop.out vm(out) vp(out)
quit
.endc
.end